US07579469B2
To a solution of 4-(3-[1,3]dioxan-2-ylphenyl)-1,1,1-trifluoro-4-methylpentan-2-one (1 g, 3 mmol) in 4.1 mL of anhydrous DMSO was added the sodium ylide of trimethylsulfoxonium iodide (3.0 mL of a 0.8M solution in DMSO) over 5 minutes. The reaction was stirred 2 hours and quenched with water and ethyl acetate. The organic layer was washed with water and brine, and dried over sodium sulfate. Removal of the volatiles in vacuo afforded 2-{3-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]phenyl}-[1,3]dioxane as a yellow oil.

reactant | 4-(3-[1,3]dioxan-2-ylphenyl)-1,1,1-trifluoro-4-methylpentan-2-one | 3 mmol, 1 g | O1C(OCCC1)C=1C=C(C=CC1)C(CC(C(F)(F)F)=O)(C)C | C16H19F3O3
reactant | sodium | [Na] | Na
reactant | trimethylsulfoxonium iodide | [I-].C[S+](=O)(C)C
solvent | DMSO | 4.1 mL | CS(=O)C | C2H6OS
product | 2-{3-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]phenyl}-[1,3]dioxane | CC(CC1(OC1)C(F)(F)F)(C)C=1C=C(C=CC1)C1OCCCO1 | C17H21F3O3
